US07759373B2
To a solution of 2-(3-fluorophenyl)-5-hydroxymethyl-4-(3-pyridyl)imidazole (389 mg) in methylene chloride (10 ml) was added thionyl chloride (10 ml), and the mixture was refluxed for one hour. After cooling, the reaction mixture was concentrated under reduced pressure to obtain a crude product of 2-(3-fluorophenyl)-5-chloromethyl-4-(3-pyridyl)imidazole dihydrochloride (508 mg) as colorless powder.

reactant | 2-(3-fluorophenyl)-5-hydroxymethyl-4-(3-pyridyl)imidazole | 389 mg | FC=1C=C(C=CC1)C=1NC(=C(N1)C=1C=NC=CC1)CO | C15H12FN3O
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-fluorophenyl)-5-chloromethyl-4-(3-pyridyl)imidazole dihydrochloride | 508 mg | Cl.Cl.FC=1C=C(C=CC1)C=1NC(=C(N1)C=1C=NC=CC1)CCl | InChI=1S/C15H11ClFN3.2ClH/c16-8-13-14(11-4-2-6-18-9-11)20-15(19-13)10-3-1-5-12(17)7-10;;/h1-7,9H,8H2,(H,19,20);2*1H
